US06995159B2
Preparation of Intermediate 4-[2-(6-Chloro-pyridin-2-ylmethoxy)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (I-5b)
The title compound (I-5b) was prepared from (6-chloro-pyridin-2-yl)-methanol (I-5a) and 4-(2-chloro-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester (I-1 a) according to a procedure analogous to that described in Example 1.

reactant | (6-chloro-pyridin-2-yl)-methanol | ClC1=CC=CC(=N1)CO | C6H6ClNO
reactant | 4-(2-chloro-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)Cl | C13H19ClN4O2
product | 4-[2-(6-Chloro-pyridin-2-ylmethoxy)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)OCC1=NC(=CC=C1)Cl | C19H24ClN5O3
